data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_361344_0,[C:1](/[C:3]([C:2](=[C:5]([H:14])[H:15])[O:6][H:8])=[C:4](\[O:7][H:9])[H:10])([H:11])([H:12])[H:13]>>[C:1]([C:3]1=[C:2]([O:6][H:8])[C:5]([H:14])([H:15])[C:4]1([O:7][H:9])[H:10])([H:11])([H:12])[H:13],37.10030999999816
MR_696561_0,[C:1]([C:3](/[C:5](=[C:4](\[N:2]([O:6][H:8])[H:9])[H:11])[H:12])=[N:7]/[H:10])([H:13])([H:14])[H:15]>>[C:1]([C:3]1([H:9])[C:5](/[C:4](=[N:2]/[O:6][H:8])[H:11])([H:12])[N:7]1[H:10])([H:13])([H:14])[H:15],65.50096000002426
MR_689925_1,[C:1]([C:3]([C:4](/[C:2](=[C:6](\[N:5]([H:11])[H:12])[H:13])[O:8][H:10])=[C:7]([H:17])[H:18])=[O:9])([H:14])([H:15])[H:16]>>[C:1]([C:3]1([O:9][H:11])[C:2](/[C:6](=[N:5]/[H:12])[H:13])([O:8][H:10])[C:4]1=[C:7]([H:17])[H:18])([H:14])([H:15])[H:16],37.92798250001297
MR_41587_1,[C@@:1]([C:4]([H:18])([H:19])[H:20])([N:5]([C:2]([H:12])([H:13])[H:14])[C:6]([C:3]([H:15])([H:16])[H:17])=[O:8])([N:7]([H:10])[H:11])[H:9]>>[C@:1]([C:4]([H:18])([H:19])[H:20])([N:7]([H:10])[H:11])([O:8]/[C:6]([C:3]([H:15])([H:16])[H:17])=[N:5]\[C:2]([H:12])([H:13])[H:14])[H:9],44.67611750002547
MR_651899_1,[C:1]([N:3]([N:4]([H:10])[H:11])[H:8])([N:5]([H:12])[H:13])(/[C:6](=[C:7](\[C:2]([H:16])([H:17])[H:18])[H:15])[H:14])[H:9]>>[C:1](\[N:5]([H:12])[H:13])(=[C:6](/[C:7]([C:2]([H:16])([H:17])[H:18])([N:3]([N:4]([H:10])[H:11])[H:8])[H:15])[H:14])[H:9],56.28424000000223
MR_20384_0,[N:1]([C:2](=[O:4])[H:7])([O:3][H:5])[H:6]>>[N:1](=[C:2](\[O:4][H:6])[H:7])\[O:3][H:5],46.63454500000327
MR_246884_1,[C:1]([N:4]([N:5]([N:7]([H:10])[H:11])[H:9])/[C:6]([C:2]([H:16])([H:17])[H:18])=[C:8](\[C:3]([H:19])([H:20])[H:21])[H:12])([H:13])([H:14])[H:15]>>[C:1](/[N:4]=[C:6](\[C:2]([H:16])([H:17])[H:18])[C:8]([C:3]([H:19])([H:20])[H:21])([N:5]([N:7]([H:10])[H:11])[H:9])[H:12])([H:13])([H:14])[H:15],36.26636249999919
MR_535640_1,[C:1]([N:3]([O:7][H:9])[H:11])(/[C:5](=[C:4](\[C:2]([H:16])([H:17])[H:18])[O:8][H:10])[N:6]([H:12])[H:13])([H:14])[H:15]>>[C:1](=[C:5]([C@@:4]([C:2]([H:16])([H:17])[H:18])([N:3]([O:7][H:9])[H:11])[O:8][H:10])[N:6]([H:12])[H:13])([H:14])[H:15],56.5923424999734
MR_479150_0,[C@@:1]12([C@@:2]([C:3]([H:12])([H:13])[H:14])([H:9])[O:8]1)[C:4]([C:6](=[C:7]([H:15])[H:16])[H:11])=[C:5]2[H:10]>>[C:1]12([C:2]([C:3]([H:12])([H:13])[H:14])([H:9])[O:8]1)[C:4]([C:6](=[C:7]([H:15])[H:16])[H:11])=[C:5]2[H:10],61.77360999998257
MR_283934_1,[C@:1]1([C:4]([H:13])([H:14])[H:15])([O:6][H:7])[C@@:2]([N:5]([H:9])[H:10])([H:8])[C:3]1([H:11])[H:12]>>[C@@:1]([C:2](=[C:3]([H:11])[H:12])[H:8])([C:4]([H:13])([H:14])[H:15])([N:5]([H:9])[H:10])[O:6][H:7],69.93173749996643
MR_27784_0,[C:1]([N:2]([H:6])[H:7])([O:3][H:5])=[O:4]>>[C:1](=[N:2][H:6])([O:3][H:5])[O:4][H:7],49.61579750000254
MR_540_1,[C:1]([C:2]([H:9])([H:10])[H:11])([C:3](=[C:4]([H:12])[H:13])[H:8])([O:5][H:6])[H:7]>>[C:1](\[C:2]([H:9])([H:10])[H:11])(=[C:3](/[C:4]([O:5][H:6])([H:12])[H:13])[H:8])[H:7],61.88028499998076
MR_59364_1,[C:1]([N:2]([N:5]([H:10])[H:11])[H:9])(/[C:4]([C:3]([N:6]([H:12])[H:13])=[O:8])=[N:7]/[H:14])([H:15])[H:16]>>[C:1](/[N:2]=[N:5]/[H:10])([C:4]([C:3]([N:6]([H:12])[H:13])=[O:8])([N:7]([H:11])[H:14])[H:9])([H:15])[H:16],51.17952749997812
MR_27795_0,[C:1]([C:2]([C:4]([H:15])([H:16])[H:17])([O:7][H:9])[H:11])([C:3]([H:12])([H:13])[H:14])([O:5][O:6][H:8])[H:10]>>[C:1]([C:2]([C:4]([H:15])([H:16])[H:17])([O:5][O:6][H:8])[H:11])([C:3]([H:12])([H:13])[H:14])([O:7][H:9])[H:10],72.78372500000671
MR_187715_0,[C:1]([N:3]([C:2]([H:15])([H:16])[H:17])[H:8])(/[C:4]([N:6]([H:12])[H:13])=[N:7]\[H:14])([N:5]([H:10])[H:11])[H:9]>>[C:1]1([N:5]([H:10])[H:11])([H:9])[C:4]([N:3]([C:2]([H:15])([H:16])[H:17])[H:8])([N:6]([H:12])[H:13])[N:7]1[H:14],70.14508749999848
MR_171886_0,[C:1]([C:3]1[N:2]([N:5][N:6][H:7])[C:4]1[H:8])([H:9])([H:10])[H:11]>>[C:1](/[C:3](=[C:4](/[N:2]1[N:5][N:6]1)[H:8])[H:7])([H:9])([H:10])[H:11],6.554865000036756
MR_501111_2,[C:1](/[C:2](=[N:6]\[O:4][H:7])[H:9])(=[C:3]([H:10])[H:11])[O:5][H:8]>>[C:1]1([O:5][H:8])=[C:2]([H:9])[N:6]([O:4][H:7])[C:3]1([H:10])[H:11],45.82130500002336
MR_521804_1,[C:1]([C:2]([H:13])([H:14])[H:15])([O:6][O:5]/[C:3]([N:4]([H:8])[H:9])=[N:7]\[H:10])([H:11])[H:12]>>[C:1]([C:2]([H:13])([H:14])[H:15])([O:5][O:6]/[C:3]([N:4]([H:8])[H:9])=[N:7]\[H:10])([H:11])[H:12],73.19850249999391
MR_672478_0,[C:1]([C:3]([C:2]([H:11])([H:12])[H:13])=[C:4]([H:14])[H:15])([O:6][O:5][O:7][H:8])([H:9])[H:10]>>[C:1]([O:5][O:7][H:8])([O:6][C:3]([C:2]([H:11])([H:12])[H:13])=[C:4]([H:14])[H:15])([H:9])[H:10],54.359697499974544
MR_242558_0,[C:1](/[N:7]=[N:5]/[N:6]=[C:3](\[C:2]([H:12])([H:13])[H:14])[O:4][H:8])([H:9])([H:10])[H:11]>>[C:1]([N:7]1[C:3]([C:2]([H:12])([H:13])[H:14])([O:4][H:8])[N:6]=[N:5]1)([H:9])([H:10])[H:11],24.5289749999921
MR_33662_0,[C:1]([C:3](=[C:5](/[N:4]([H:8])[H:9])[H:10])/[C:6](=[C:7](\[C:2]([H:16])([H:17])[H:18])[H:12])[H:11])([H:13])([H:14])[H:15]>>[C:1]([C:3]1=[C:6]([H:11])[C:7]([C:2]([H:16])([H:17])[H:18])([H:12])[C:5]1([N:4]([H:8])[H:9])[H:10])([H:13])([H:14])[H:15],56.05331999997887
